US05457134
Synthesis of 3,4,4-trifluoro-3-butenoic acid, 4-nitrophenyl ester (Compound 117)
A solution of 4-nitrophenol (1.10 g, 0.0079 mole) and 3,4,4-trifluoro-3-butenoyl chloride (1.85 g, 0.0116 mole) in dry ether (15 mL) is treated dropwise with triethylamine (1.01 g, 0.01 mole) at -78° C. with stirring. The mixture is stirred at -78° C. for 10 min and allowed to reach room temperature. The reaction mixture is diluted with ether (20 mL), stirred with 15 mL of 2N HCl. The organic layer is successively washed with water, 5% sodium bicarbonate, brine, and dried. The dark brown residue obtained after evaporation of the solvent was purified by passing through a short column of silica gel to give 1.9 g of the product as a brown solid, a 91% yield. m.p. 58°-62° C.

reactant | 4-nitrophenol | 0.0079 mole, 1.10 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0116 mole, 1.85 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N, 15 mL | Cl | ClH
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3,4,4-trifluoro-3-butenoic acid, 4-nitrophenyl ester | 1.9 g, 91% yield | FC(CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=C(F)F | C10H6F3NO4
